US06974831B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester.
A mixture of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-bromobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (200 mg, 0.400 mmol), phenylboronic acid (49 mg, 0.40 mmol), cesium carbonate (260 mg, 0.800 mmol), and tetrakis(triphenylphosphine)palladium(0) (14 mg, 0.0012 mmol) in dioxane (20 mL) was sparged with nitrogen for 5 min then heated at 100° C. for 6 h. The mixture was allowed to cool to room temperature and filtered through a pad of silica gel that was subsequently washed with acetone. The filtrate was concentrated in vacuo. Reverse-phase chromatography (C18, water/acetonitrile) of the residue provided 61 mg (31%) of the title compound. 1H NMR (CDCl3) δ 7.49 (t, J=7.0 Hz, 2H), 7.42 (t, J=7.3 Hz, 1H), 7.37 (d, J=7.0 Hz, 2H), 7.29 (m, 2H), 7.17 (m, 1H), 6.56 (bs, 1H), 6.48 (d, J=8.0 Hz, 1H), 6.44 (s, 1H), 5.42 (bs, 1H), 5.26 (s, 2H), 4.68 (s, 2H), 3.76 (s, 3H), 2.86 (t, J=7.3 Hz, 4H), 2.34 (s, 3H), 2.01 (quintet, J=7.0 Hz, 2H); MS FD+ m/e 496 (p); IR (KBr, cm−1) 3461, 1757, 1699, 1642.

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-bromobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.400 mmol, 200 mg | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)Br)C)C(C(=O)N)=O)=O | C24H23BrN2O5
reactant | phenylboronic acid | 0.40 mmol, 49 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 0.800 mmol, 260 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 61 mg, 31% | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)C2=CC=CC=C2)C)C(C(=O)N)=O)=O | C30H28N2O5
